** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sch
.SUBCKT LC_VCO VDD VCTRL GND OUT VBGR
*.PININFO OUT:O VCTRL:I VBGR:I VDD:B GND:B
M5 Vx Vgs GND GND sg13_lv_nmos w=384u l=1u ng=48
M4 OUTp OUTn VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
M3 OUTn OUTp VDD VDD sg13_lv_pmos w=36u l=0.13u ng=5
M2 OUTp OUTn net1 GND sg13_lv_nmos w=22u l=0.13u ng=3
M1 OUTn OUTp net1 GND sg13_lv_nmos w=22u l=0.13u ng=3
M6 Vgs Vgs GND GND sg13_lv_nmos w=64u l=1u ng=8
x1 OUTn OUTp ihp_4nh_inductor
XC1 OUTn OUTp GND cap_rfcmim w=21.9e-6 l=21.9e-6 wfeed=10.0e-6
XC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
M7 Vgs VBGR VDD VDD sg13_lv_pmos w=38u l=1u ng=5
M8 OUT OUTp VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
M9 OUT OUTp GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
M10 net2 OUTn VDD VDD sg13_lv_pmos w=15u l=0.13u ng=10
M11 net2 OUTn GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1
.ENDS
.GLOBAL GND
.GLOBAL VDD
